US04880799
20 g o-nitro benzylalcohol and 21.7 ml ethyl bromoacetate was dissolved in 250 ml dry DMF. Portions of 55-60% sodium hydride were added to this solution under stirring over one hour until a total amount of 8.5 g had been added. The mixture was left overnight at room temperature and then heated to 150° C. under stirring for 2 hours. The mixture was then evaporated and the residue was partitioned between diethylether and water. The organic phase was evaporated to give 14 g ethyl (o-nitro-benzyloxy)acetate as an oil.

reactant | o-nitro benzylalcohol | 20 g | [N+](=O)([O-])C1=C(CO)C=CC=C1 | C7H7NO3
reactant | ethyl bromoacetate | 21.7 ml | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | ethyl (o-nitro-benzyloxy)acetate | 14 g | [N+](=O)([O-])C1=C(COCC(=O)OCC)C=CC=C1 | C11H13NO5
